Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel like my life is irreparably damaged"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a ___ year old man with psychiatric history 
of anxiety, depression, OCD with contamination fears/hand 
washing, and question of eating disorder who presents with 
worsening anxiety and intrusive suicidal thoughts.
.
As per Dr. ___ Evaluation on ___: 
.
"Last saw Dr. ___ on ___ at which time he appeared 
to have "a very dark view of the world, bordering on a psychotic 
depression".  At that time he denied suicidal ideation. He was 
started on a trial of perphenazine ___ mg and continued Prozac 
80mg daily. 
.
Patient notably called the ___ doctor on call in the evening 
yesterday ___. He reported feeling significant anxiety for 
the last several hours. Denied any suicidal thinking or thoughts 
of self harm at that time. The patient noted that he was 
recently increased from 2 mg perphenazine QHS to 8 mg QHS with 
additional ___ mg prn for anxiety. He said additional doses of 
perphenazine subjectively worsened his symptoms. Doctor on call 
also spoke with the patient's sister, who reported that the 
patient has been having increasing anxiety and has been having 
trouble remembering how much medication he has been taking, 
appearing more confused. 
.
Earlier this afternoon, patient presented to ___ with 
worsening anxiety and thoughts of self-harm with plans including 
hanging himself or placing a  plastic bag over his head. He was 
agreeable with transfer to ___ accompanied by his sister. 
.
On interview at this time, patient says "I feel like my life is 
irreparably damaged". He says for the past few days he has been 
experiencing "anxiety episodes" and panic attacks and its 
"ruining [his] life". Patient is unsure what triggered this, but 
does note that a few days ago, he increased his perphenazine as 
directed by his psychiatrist and since then, it has felt like 
one very long panic attack. He described these panic attacks as 
feel
nauseated, and having thoughts that life is ruined and the only 
way to resolve this is to commit suicide. 
.
He reports having intrusive thoughts of hanging himself or using 
a plastic bag to asphyxiate himself. He has not taken any 
measures in this plan yet. He realizes committing suicide would 
upset his family a great deal. But he doesn't know how else to 
resolve his issues, he sees this as "the only solution".
.
For the past few months, he has been feeling depressed and like 
he is "standing still in life". He describes feelings of 
emptiness and disengagement in life. These symptoms are what 
prompted him to establish outpatient psychiatric care. 
.
Earlier today he says he was just laying in bed, "crippled from 
anxiety" and his older sisters told him he had to go to urgent 
care. Patient is in agreement with inpatient psychiatric 
admission." 
.
On interview today, patient endorses depressed mood, 
hopelessness/helplessness, sleep disturbance (fragmented sleep), 
racing thoughts, decreased appetite with poor PO intake, 
anhedonia, poor concentration, and excessive rumination. He 
states that since ___, his mood has been significantly 
worse than prior, and that while he does experience chronic 
anxiety he has never had feelings of "endless panic... like an 
endless attack" prior to ___ night. He states that he has 
been overwhelmed with guilt, and believes that it is his fault 
that he has been suffering and feels that he is a burden to his 
family. Patient has poor sense of self worth, stating "I hate 
myself" and that he is worried that his life will never be 
normal again given his current symptoms. Patient denies having 
suicidal thoughts currently, denies active ideation or intent to 
harm himself, though over the weekend patient states that he had 
passive ideation with plan to suffocate himself with a plastic 
bag over his head, although he had no intention of carrying out 
this plan. He feels that the Ativan given to him while in the ED 
overnight helped decrease his anxiety. While he denies any 
outright paranoia or thought insertion/broadcasting, he does 
feel that he is constantly under scrutiny, and that "something 
is always evaluating me constantly". He feels that he is always 
being judged by others. Patient denies any auditory or visual 
hallucinations, noted feeling safe both at home and on the unit 
although he stated that he is extremely anxious given that he is
in a new place. 
.
Ms. ___ endorsed that his OCD symptoms (constant worry about 
contamination) has been  chronic and unchanged over the past few 
days. He proceeded to describe the nature of his obsessive 
ruminations, "I know my phone is down on the table, and I know 
now that it must be contaminated... I am more worried about 
contaminating things that I know are clean". During interview 
patient had poor eye contact, flat and nonreactive affect, with 
monotone speech with normal response latency. While patient was 
very cooperative and polite, his responses and mannerisms were 
at times bizarre and completely devoid of affect.
.
Per patient's sisters, who had accompanied patient to the unit, 
his first night sleeping away from home was last night while in 
the ED, and that they are very worried about him given that he 
appears to be extremely anxious and scared of being on an 
inpatient unit. They noticed that the behavior began after 
patient's perphenazine dose was increased by his psychiatrist on 
___, and that he has never complained of panic symptoms 
prior. He appeared to be markedly more withdrawn and isolative 
over the weekend compared to usual, and while he is shy and 
introverted, he has always been very interactive with his
immediate family. 
.
As per Dr. ___ evaluation ___:
COLLATERAL: ___, sister (___)  Spoke with ___ and 
patient's other sister privately in the ED. They report he has 
been struggling with anxiety, depression for a while, but in the 
past few days, it is like he "snapped" and is a different 
person. He has had severe anxiety, panic attacks, and thoughts 
of killing himself, which he has never had before. They are 
hesitant, but in agreement with inpatient psychiatric admission. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: OCD featuring contamination fears, hand 
washing, says this started in ___ depression; anxiety 
-Hospitalizations: denies 
-Psychiatrist: Dr. ___, ___
-Therapist: ___, ___ 
-Medication trials: prozac, risperdal, perphenazine, also 
multiple prior that he can't remember names ___ attempts: denies 
-Self-injurious behavior: cutting behavior, last was several 
weeks ago; punching self, last 1 week ago 
-Harm to others: denies 
-Trauma: denies emotional, physical, sexual abuse
-Access to weapons: denies guns, has pocket knives at home. 
.
PAST MEDICAL HISTORY:
**PCP: ___, MD, ___
-Asthma
-Denies any other medical conditions 
-Denies history of head trauma, seizure.

 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine: not often
-Tobacco: denies
-Alcohol: denies
-Marijuana: denies
-Other Drugs: denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: father- bipolar disorder; maternal 
grandfather bipolar disorder; several family members struggle 
with depression/anxiety; denies any fam hx of schizophrenia 
-Substance Use Disorders: denies 
-Suicide Attempts/Completed Suicides: denies any known 
 
Physical Exam:
EXAM: 
Vital Signs: T 98.8 PO  BP 135 / 78  HR  91   RR 18  O2 sat 100 
%

  General: Appears stated age, well groomed, wearing hospital 
gown. In no apparent distress. 
  HEENT: Normocephalic, atraumatic. PERRLA, EOMI. Oropharynx 
clear.
  Neck: Supple.
  Back: No significant deformity.
  Lungs: CTA ___. No crackles, wheezes, or rhonchi.
  CV: RRR, no murmurs/rubs/gallops. 
  Abdomen: +BS, soft, nontender, nondistended. No palpable 
masses or organomegaly.
  Extremities: No clubbing, cyanosis, or edema.
  Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
  pupils symmetry and responsiveness to light and accommodation: 
PERRLA
  visual fields: full to confrontation
  EOM:  full
  facial sensation to light touch in all 3 divisions: equal
  facial symmetry on eye closure and smile:  symmetric
  hearing bilaterally to rubbing fingers: normal
  phonation: normal
  head turning and shoulder shrug:  intact
  tongue: midline
  Motor: muscle bulk and tone normal, strength is full
bilaterally
  Coordination: intact
  Gait: normal posture, normal gait 

On admission:  
Mental Status:
-Appearance: Young thin Middle Eastern man appearing stated age,
well groomed, wearing hospital gown, in no apparent distress
-Behavior: Anxious; sitting up in chair with mild psychomotor
agitation (shaking leg, fidgeting in seat). Poor eye contact. 
-Attitude: Cooperative, polite
-Mood: "anxious"
-Affect: appears anxious, dysphoric, flat and nonreactive 
affect.
-Speech: Normal volume, monotone. 
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies both SI and HI currently
---Delusions: says sometimes he feels like "something is
constantly evaluating me"
---Obsessions/Compulsions: endorses fear of contamination and
hand washing, described his worry that his phone was currently
contaminated by the table. 
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

Cognition
-Wakefulness/alertness: Awake and alert
-Attention: Spells "WORLD" backwards. 
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents; names recent political events 
-___: $1.75 = "7" quarters
-Abstraction: apple+orange="fruit" watch+ruler="tools of
measurement" bike+train="modes of transportation"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
UDS negative for benzos, barbs, opiates, cocaine, amphet, 
methadone, and oxycodone

BMP WNL :___ 04:13PM  GLUCOSE-101* UREA N-9 CREAT-0.8 
SODIUM-142 POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-23 ANION GAP-18

Hg A1c 5.1 

___ 09:18AM BLOOD Triglyc-63 HDL-88 CHOL/HD-2.6 
LDLcalc-131*
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on every 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
On initial interview, Mr. ___ endorsed worsening depressed 
mood, hopelessness, worthlessness, anhedonia, anxiety, and panic 
attacks, which were causing significant distress. He described 
that his anxiety and panic attacks had worsened over the past 2 
days prior to admission. Patient was endorsing increasingly 
intrusive suicidal thoughts with plan to harm himself by either 
hanging or placing a plastic bag over his head on initial 
evaluation in ED, though patient appeared to be minimizing these 
thoughts on admission to psychiatric unit. Per collateral from 
his sister patient was noted to be increasingly anxious and 
socially isolated in weeks leading to admission.  Patient's 
mental status exam on admission revealed an anxious appearing, 
cooperative young man with poor eye contact, constricted and 
minimally reactive affect, with linear thought process. There 
was some concern of attenuated delusional thinking with patient 
reporting paranoid thoughts that others are always evaluating or 
judging him. He denied hallucinations. Psychological testing was 
done, and the significant symptoms noted on the testing were 
anxiety, depression, and negative symptoms of schizophrenia.  
.
Diagnostically, the presentation of increasing depressive 
symptoms along with blunted affect, questionable delusional 
thinking is concerning for major depressive disorder with 
psychotic features or prodrome of a primary psychotic disorder. 
He was also noted to have anxiety features with visible 
psychomotor restlessness. Additionally, while on the unit the 
patient endorsed social anxiety, preoccupation with being 
criticized, and feelings of being inferior, which could be 
consistent with avoidant personality traits. 
.
The patient was started on zyprexa 7.5mg, and he was continued 
on Prozac 80mg. He had some improvement of his anxiety with the 
zyprexa, but he continued to have  anxiety so the dose was 
increased to 10mg. He noted his anxiety improved significantly 
on this dose. He was also started on Ativan 0.5mg BID PRN for 
anxiety. He initially used the PRN at least once a day. As his 
anxiety improved he required the Ativan less frequently (1 x in 
last 3 days). The patient continued to report depressive 
symptoms including anhedonia and lack of motivation. As the 
anxiety improved, the patient reported that the intrusive 
suicidal thoughts had resolved. 
.
Upon discharge the mental status exam was significant for a 
young properly groomed male with improving eye contact and 
cooperative behavior. He continued to have some restlessness 
with tapping of his foot, but it decreased in frequency. His 
speech continued to be soft in volume and normal in tone and 
rate. His mood was reported as "okay", and his affect was 
somewhat incongruent, restricted in range with some 
reactiveness. His thought process was linearly organized and 
goal oriented with no loosening of association. For thought 
content he denies current perceptual disturbances, does not 
appear internally preoccupied, denies ongoing thoughts of 
suicide and hopelessness, and denies violent ideation. Judgement 
and insight is fair. At the time of discharge the patient 
demonstrated preserved capacity to engage in a safety planning 
conservation. He stated that if he had recurrent suicidal 
thoughts, he would reach out to his sister, contact his mental 
health care providers, and go to the emergency room if the 
thoughts became increasingly intrusive. 
.
Given the concern for psychotic features, a referral was made to 
the ___ Ontrack program and for the ___ III Research Study 
so as to better connect him to resources in the community. The 
team was unable to schedule an intake appointment with the 
___ Ontrack program. The coordinator of the ___ program 
will be meeting with Mr. ___ next week during his outpatient 
psychiatry appointment (see appointments below). Recommend that 
the patient is connected with this research study, the Ontrack, 
or the PREP program. Also recommend, in the future, would 
consider exploring the traumatic event in ___ as he seems 
to note a significant amount of guilt from this event. He 
deferred talking to the team about the details of the event. 
.
3. SUBSTANCE USE DISORDERS: N/A.
.
4. MEDICAL
#) No medical issues noted; health maintenance and metabolic 
monitoring labs obtained.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient participated in several groups after the team encouraged 
him. In particular, he noted enjoying the projects groups, and 
he created a mosaic craft. He also attended groups that focused 
on teaching patients various coping skills. He was often noted 
to be very social isolative but would interact if someone 
prompted him. While on the unit he noted struggles with 
interacting with other patients and feeling some social anxiety 
about attending groups.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT - Obtained verbal 
permission to speak to his sister ___ (___ ___ and 
father. Spoke to his sister several times during the admission 
both for updates and for collateral information. Also, had email 
contact with ___ father. ___ obtained verbal and 
written permission to speak to his outpatient mental health 
provider.  Spoke to his outpatient providers Dr. ___ 
(___) and ___ (therapist) for collateral 
information and discharge planning.
.
#) INTERVENTIONS
- Medications: Zyprexa 10mg and Ativan 0.5mg BID PRN anxiety 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient will be discharged with 
follow up appointment with Dr. ___ 
___ (therapist), Dr. ___ care provider)  
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Worked on mindfulness and breathing techniques to be used during 
panic attacks
-Guardianships: not indicated
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon increasing 
frequency of intrusive suicidal thoughts with plan. His static 
factors noted at that time included chronic mental illness, 
history of self-harm behavior, male gender, age, and chronic 
medical illness. The patient was noted to have several 
modifiable risk factors upon admission, which included suicidal 
ideation with plan, hopelessness, social withdrawal, and lack of 
purpose. These modifiable risk factors were addressed by 
initiation of a new medication Zyprexa and supportive therapy. 
As the patient's anxiety and depression improved his suicidal 
thoughts and thoughts of hopelessness resolved. Finally, the 
patient is being discharged with many protective risk factors 
including help-seeking nature, future-oriented viewpoint, 
reality testing ability, positive therapeutic relationship with 
outpatient providers, no history of abuse, and strong social 
supports. At the time of discharge the patient demonstrated 
preserved capacity to engage in a safety planning conservation. 
He stated that if he had recurrent suicidal thoughts, he would 
reach out to his sister, contact his mental health care 
providers, and go to the emergency room if the thoughts became 
increasingly intrusive.  Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Perphenazine 8 mg PO QHS 
2. Perphenazine ___ mg PO PRN anxiety 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation PRN 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
5. FLUoxetine 80 mg PO DAILY 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID: PRN anxiety, insomnia, agitation 
RX *lorazepam 0.5 mg 1 (One) by mouth twice a day as needed Disp 
#*14 Tablet Refills:*0 
2.  OLANZapine 10 mg PO QHS 
RX *olanzapine [Zyprexa] 10 mg 1 (One) tablet(s) by mouth at 
bedtime Disp #*14 Tablet Refills:*0 
3.  FLUoxetine 80 mg PO DAILY  
4.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
5.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder with psychotic features
R/O prodrome of primary antipsychotic disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___